* page 11. figure 9
* https://inst.eecs.berkeley.edu/~ee105/sp11/tutorials/HSPICE_Tutorial.pdf

vs vs gnd 1V
r1 vs 1 1k
r2 1 2 500
r3 2 vo 800
r4 2 gnd 200
r5 1 4 1.5k
r6 4 vo 700
r7 vo 5 100
r8 5 gnd 900
.tf v(vo) vs
